US09403835B2
Intermediate A2: 6-ethyl-5,7-dimethyl-2,3-dihydro-1H-2,4,7a,8-tetraaza-cyclopenta[a]indene
A mixture of 3-amino-2,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-5-carboxylic acid tert-butyl ester (0.6 g; 2.68 mmol; 1 eq.) and 3-ethyl-2,4-pentanedione (0.36 mL; 2.68 mmol; 1 eq.) in AcOH (8 mL) was stirred at room temperature for 32 hours. Aq. 32% HCl (1.05 mL; 10.7 mmol; 4 eq.) was added and the resulting mixture stirred for a further 16 hours. After concentration in vacuo, the residue was triturated in MTBE and the precipitate filtered off and dried. The solid was taken up in ethyl acetate and washed with 1M aq. NaOH (2×), dried over magnesium sulfate and concentrated in vacuo to afford the title compound (450 mg, 94%) as a beige solid. 1H NMR (DMSO-d6) δ 4.05-4.00 (m, 4H), 2.73-2.63 (m, 5H), 2.51 (s, 3H), 1.12 (t, J=7.4 Hz, 3H). UPLC/MS: (MS+) 217.3 ([M+H]+).

reactant | 3-amino-2,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-5-carboxylic acid tert-butyl ester | 2.68 mmol, 0.6 g, 1 eq. | C(C)(C)(C)OC(=O)N1CC2=NNC(=C2C1)N | C10H16N4O2
reactant | 3-ethyl-2,4-pentanedione | 2.68 mmol, 0.36 mL, 1 eq. | C(C)C(C(C)=O)C(C)=O | C7H12O2
reactant | HCl | 10.7 mmol, 1.05 mL, 4 eq. | Cl | ClH
solvent | AcOH | 8 mL | CC(=O)O | C2H4O2
product | 6-ethyl-5,7-dimethyl-2,3-dihydro-1H-2,4,7a,8-tetraaza-cyclopenta[a]indene | 450 mg, 94% | C(C)C1=C(N2N=C3C(=C2N=C1C)CNC3)C | C12H16N4
